2138-03-18 07:51:00 Physician Resident Progress Note
Chief Complaint: 63M s/p renal transplant with metastatic prostate
   cancer admitted following fever at his rehab facility
   24 Hour Events:
 PRESEP CATHETER - START [**2138-3-17**] 03:30 PM
   Subjective
   Denies pain today
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Antibiotics
   Flagyl 500mg PO TID day 2
   Vancomycin 1g IV q48 day 2
   Zosyn 2.25g IV q8 day 2
   Other medications:
   Methylprednisolone 125mg IV q8
   Allopurinol
   Fluoxetine
   Neurontin
   Insulin SS, Ferrous sulfate, Protonix
   Flowsheet Data as of  [**2138-3-18**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 101 (101 - 116) bpm
   BP: 93/67(128){88/56(59) - 123/74(128)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 5 (-5 - 302)mmHg
   Total In:
                                                                  2,548 mL
                                                                  1,997 mL
   PO:
   TF:
   IVF:
                                                                  2,548 mL
                                                                  1,997 mL
   Blood products:
   Total out:
                                                                    170 mL
                                                                    250 mL
   Urine:
                                                                    170 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,378 mL
                                                                  1,747 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   General Appearance: Thin chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ bilateral pedal edema,  ecchymoses medial right thigh,
   erythema of shins unchanged
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Awake, answering appropriately
   Labs / Radiology
   235 K/uL
   8.6 g/dL
   221 mg/dL
   4.3 mg/dL
   15 mEq/L
   5.1 mEq/L
   99 mg/dL
   109 mEq/L
   135 mEq/L
   28.8 %
   5.0 K/uL
        [image002.jpg]
   Micro
   [**3-17**], 2/5 blood cx NGTD
   [**3-17**] urine cx NGTD
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
   WBC
   14.8
   5.0
   Hct
   31.8
   28.8
   Plt
   306
   235
   Cr
   4.5
   4.3
   TropT
   0.42
   Glucose
   208
   221
   Other labs: PT / PTT / INR:15.1/32.8/1.3, CK / CKMB /
   Troponin-T:17/3/0.42, Amylase / Lipase:45/34, Differential-Neuts:94.0
   %, Band:3.0 %, Lymph:3.0 %, Mono:Units: %
   Range: [**3-24**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 Fever and hypotension
   Suspect volume depleted in setting of diuresis and diarrhea with fever
   due to unresolved C. difficile colitis.  CXR at admission showed
   pulmonary edema
 could have had MI with decreased pump function
   consequently which would contribute to hypotension.
   No clear focus of infection on imaging of torso or lower extremities.
   He does have some abdominal tenderness but abdominal imaging benign;
   however the absence of any contrast limits this assessment. UA with few
   bacteria but no evidence of inflammation (leuk- no wbc).  He reports
   that the mild erythema of his lower extremities is chronic and
   unchanged making cellulitis less likely. In the ED, he complained of
   hip pains but patient says these are actually thigh pains
   worsening pain consider hip MRI.
   --Cover with flagyl empirically for now. Will continue vancomycin and
   zosyn for now given bandemia on today
s CBC
   --Check TTE today to reassess EF
   --Repeat urine and blood cultures. C diff toxin assay resent as initial
   information was that this had been negative recently.
   --Follow LE edema
   --Will fluid resuscitate with lactated ringers for goal central venous
   pressure 8 to 12 mmHg, MAP 65 mmHg, and UOP 0.5 mL/kg per hour. Add
   levophed if needed for BP support following fluid resuscitation.
   Continue stress dose steroids covering with insulin sliding scale and
   PPI.
 Leg pains
   No evidence of soft tissue gas worrisome for necrotizing fasciitis. No
   lytic lesions seen on CT, R thigh appears to have hematoma not clear
   why.  Perfusion of LE appears adequate on clinical exam. CK normal
   arguing against myositis/rhabdomyolysis. Patient does have history of
   multiple body aches from past discharge summaries.
   --Follow Hct, pain control
 Hyperchloremic non-gap metabolic acidosis.
   [**Month (only) 60**] be [**3-15**] volume loss from recent c. difficile diarrheal infection.
   Also could be [**3-15**] renal failure, bicarbonate loss from urostomy.
   Imprvoed today.
   --Will replete fluids with LR, follow electrolytes [**Hospital1 **]
 ESRD s/p cadaveric renal transplant.
   --Hold tacrolimus per transplant nephrology, follow up level today.
   --Graft ultrasound given elevation in Cr. Can check urine electrolytes,
   eosinophils
 Hypocalcemia. Calcium quite low at admission, corrects to 7.1 using
   albumin of 2.4 from [**2138-2-24**]. Review of medications shows that he had
   been on calcitriol previously. Apparently this was stopped in setting
   of elevated calcium. Ionized calcium slightly up today post repletion.
   --Follow Ca/Phos product consider lower dose calcitriol if hypocalcemia
   returns renal recommendations appreicated
 Elevated troponin, trending down. ACS unlikely but consider remote
   cardiac ischemia, as above.
 ?Conjunctivitis. Unilateral crusting suggests possible mild bacterial
   conjunctivitis, will treat with topical erythromycin.
 ?Coagulopathy
   INR slightly elevated at 1.5 at admission, improved to 1.3 on repeat.
   Fibrinogen WNL without evidence of active bleeding. Follow
   ICU Care
   Nutrition: consider tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:  n/a
   Communication: ICU consent signed wife is HCP
   [**Name (NI) 66**] status: Full code
   Disposition:ICU

2138-03-19 10:48:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   UO declining
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2138-3-18**] 10:57 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-18**] 09:57 AM
   Piperacillin - [**2138-3-19**] 02:00 AM
   Metronidazole - [**2138-3-19**] 04:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-19**] 09:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-3-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Allergy / Immunology: Immunocompromised, Renal tx
   Pain: [**4-15**] Mild
   Pain location: diffuse both legs
   Flowsheet Data as of  [**2138-3-19**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 104 (87 - 104) bpm
   BP: 89/62(68){84/54(27) - 107/77(82)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: -3 (-3 - 12)mmHg
   Total In:
                                                                  4,445 mL
                                                                    210 mL
   PO:
   TF:
   IVF:
                                                                  4,445 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                     70 mL
   Urine:
                                                                    360 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,085 mL
                                                                    140 mL
   Respiratory support
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   General Appearance: distressed, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), PMI
   lateral
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: )
   Abdominal: Soft
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   269 K/uL
   164 mg/dL
   4.5 mg/dL
   13 mEq/L
   5.2 mEq/L
   103 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
   WBC
   14.8
   5.0
   6.1
   Hct
   31.8
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 695**]
   Cr
   4.5
   4.3
   4.5
   4.5
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:92.7
   %, Band:Units: %
   Range: 0-5 %, Lymph:5.2 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 HYPOTENSION - suspect this is multifactorial - AI, poor ventricular
   fxn, peripheral fistula. Very difficult to assess his perfusion as he
   seems to have had a renal insult and his MS [**First Name (Titles) **] [**Last Name (Titles) 294**] somewhat
   delerious.  Would be inclined to tolerate BPs of 80s as long as he does
   not have changes suggestive of poor perfusion. He is total about 10L
   pos LOS. Exam and CXR show pulmonary edema.  Will ask for cardiology
   input about managing his CHF and volume with low BP
   No clear source
 DIARRHEA
   [**3-15**] c. difficile infection
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) - UO is now
   minimal. Will need dialysis in next few days but BP may mandate CVVH
   s/p cadaveric renal transplant on immunosuppression
 ELECTROLYTE & FLUID DISORDER, OTHER
   hypocalcemia
   He seems to be slowly deteriorating. I see little that is truly
   reversible here. I suspect his cardiac disease is a major part of this.
   He is heading to dialysis but has indicated he will refuse going back
   on HD. We will discuss long term plan/prognosis with his wife
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-03-19 12:11:00 Physician Resident Progress Note
Chief Complaint: fever, hypotension
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2138-3-18**] 10:57 AM
   Renal u/s showing graft with no hydronephrosis no stones and normal
   vascularity.
   Maintaining SBPs of 90-100's without pressors.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-18**] 09:57 AM
   Piperacillin - [**2138-3-19**] 02:00 AM
   Metronidazole - [**2138-3-19**] 04:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-19**] 09:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-3-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-19**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 102 (87 - 104) bpm
   BP: 85/57(64){84/54(27) - 107/72(78)} mmHg
   RR: 18 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: -3 (-3 - 12)mmHg
   Total In:
                                                                  4,445 mL
                                                                    210 mL
   PO:
   TF:
   IVF:
                                                                  4,445 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                    360 mL
                                                                     76 mL
   Urine:
                                                                    360 mL
                                                                     76 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,085 mL
                                                                    134 mL
   Respiratory support
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   Patient alert, oriented to place and month, not date.
   Dry MMM
   Tachycardic with systolic murmur
   large eccymosis on medial right thigh, tender; improving as compared to
   yesterday
   LE edema to mid calf b/l
   Labs / Radiology
   269 K/uL
   8.7 g/dL
   164 mg/dL
   4.5 mg/dL
   13 mEq/L
   5.2 mEq/L
   103 mg/dL
   111 mEq/L
   138 mEq/L
   28.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
   WBC
   14.8
   5.0
   6.1
   Hct
   31.8
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 695**]
   Cr
   4.5
   4.3
   4.5
   4.5
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:92.7
   %, Band:Units: %
   Range: 0-5 %, Lymph:5.2 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:6.6 mg/dL
   Fluid analysis / Other labs: CE: Trop=0.33 (0.35, 0.42), CK=10 MB=4
   fingersticks 190, 250
   Vanc trough=31.2
   Imaging: Renal u/s:  no hydro , no stones, normal vascularity
   TTE [**3-18**]: The left atrium and right atrium are normal in cavity size.
   The estimated right atrial pressure is 0-5 mmHg. There is mild
   symmetric left ventricular hypertrophy with normal cavity size. There
   is mild regional left ventricular systolic dysfunction with akinesis of
   the basal inferior wall and hypokinesis of the more distal segments.
   There is mild hypokinesis of the remaining segments (LVEF = 40%). The
   estimated cardiac index is normal (>=2.5L/min/m2). Right ventricular
   chamber size and free wall motion are normal. The ascending aorta is
   mildly dilated. The aortic valve leaflets are moderately thickened.
   There is moderate aortic valve stenosis (area 1.0cm2). Mild to moderate
   ([**2-12**]+) aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. There is very mild
   mitral regurgitation. The estimated pulmonary artery systolic pressure
   is high normal. There is a very small anterior pericardial effusion.
   IMPRESSION: Mild symmetric left ventricular hypertrophy with regional
   systolic dysfunction c/w CAD. Mild-moderate aortic regurgitation.
   Moderate aortic stenosis.
   Compared with the prior study (images reviewed) of [**2137-10-1**], regional
   left ventricular systolic function is more prominent (but was suggested
   on the prior study) and the severity of aortic regurgitation has
   increased. The severity of aortic stenosis is likely similar.
   Microbiology: Micro: C. diff NEG
   Assessment and Plan
   63 yo M s/p cadaveric renal transplant [**3-15**] PCKD who presented with
   subjective fevers from rehab and hypotension, with acute on chronic
   renal failure.
 SEPSIS WITHOUT ORGAN DYSFUNCTION/ Hypotension
   Continuing to be oliguric, afebrile since admission, hypotension of
   unclear etiology as no localization of possible infection. Would also
   consider a cardiac component given AS and worsened AI.  EF reported as
   40%, concern for lower EF in setting of worsening AR.
   -holding off on fluid bolus for support given aggressive hydration and
   pulmonary edema
   -will tolerate SBP's in the 80's without intervention
   -if needs fluid bolus, would not give LR as elevated K at 5.2 today
   - treating empirically for C.diff given history
   -continue to f/u cultures
   -c.diff toxin neg; sending toxin B
   -on Flagyl, Zosyn and Vancomycin
   -dose Vanc by level, hold dose for today
   #   Pulmonary edema:  Likely a cardiac component give low EF, AS and
   AI. Has been very positive for length of stay.
   -would hold off of fluid boluses unles SBPs <80
   -appreciate cardiology consult to determine if level of hypotension can
   be explained by current cardiac dysfunction (note that
 basal wall
   hypokinesis actually was present on prior echo from [**Month (only) 705**])
   #  Hyperchloremic Metabolic Acidosis:  Likely [**3-15**] to renal failure
   -no longer hypernatremic
   -if need to fluid bolus, renal recommends D5 1/2NS with bicarb, no LR
   given slightly elevated K
   -do not need to correct K until >5.8 per renal
   -follow electrolytes [**Hospital1 **]
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):  Acute on
   Chronic
   s/p cadaveric renal transplant on immunosuppression
   -continues to be oliguric with only 10cc UOP since MN despite
   aggressive hydration
   -will need HD in next several days
   -Dr. [**Last Name (STitle) 698**] his primary nephrologist will be here tomorrow
wife
   currently prefers to defer decision about whether to proceed with renal
   replacement therapy until she can discuss matter with Dr. [**Last Name (STitle) 698**]
   [**Name (STitle) **]. [**Last Name (STitle) 699**] will to take on service when ready to be called out
   -tacrolimus level pending this morning, dose 1 mg [**Hospital1 **] once level <6 per
   renal recs
   -continue steriods
   -renal u/s showing no hydronephrosis or stones, normal graft
   vascularity
   -appreciate renal recs
   # Metastatic prostate cancer: On Lupron.
   -e-mailed Dr. [**Doctor Last Name 700**]
   ICU Care
   Nutrition:
   Comments: renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT: Boots (no heparin products given possible h/o HIT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI confirmed with wife
   Disposition:ICU

2138-03-20 08:02:00 Physician Resident Progress Note
Chief Complaint: 63M s/p failing renal transplants with recent C.
   difficile colitis admitted with fever
   24 Hour Events:
   - Confirmed DNR/DNI status with wife
   - [**Name (NI) 53**] and wife prefer to defer decision about dialysis until they
   can discuss the matter with [**First Name8 (NamePattern2) 744**] [**Last Name (NamePattern1) 698**], who will come in Thurs AM.
   - Cardiology consulted--no recs
   - CVPs were unreliable all day
   - had asymptomatic NSVT, lytes checked and were fine
   - continued to be anuric
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-18**] 09:57 AM
   Piperacillin - [**2138-3-19**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-20**] 02:00 AM
   Metronidazole - [**2138-3-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-3-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Nausea, No(t) Emesis, no pruritis
   Pain location: generalized discomfort in bed
   Flowsheet Data as of  [**2138-3-20**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 101 (100 - 107) bpm
   BP: 95/60(69){76/37(47) - 101/64(95)} mmHg
   RR: 19 (18 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                    510 mL
                                                                    229 mL
   PO:
   TF:
   IVF:
                                                                    510 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                     86 mL
                                                                     10 mL
   Urine:
                                                                     86 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                    219 mL
   Respiratory support
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   Gen: Alert, oriented to person, place, month and year, talkative,
   appears to be in moderate pain while moving
   Dry MMM, cracked lips
   CV: tachycardic, III/VI SEM heard best at apex
   Pulm: listened anteriorly, no crackles heard
   ABD:  diffusely TTP, worse on L, no rebound/guarding, ostomy site pink,
   draining clear yellow urine, no increased tenderness around site
   EXT: LE warm, 2+ pitting edema,
   UE:  multiple tophi on fingers, hands, arms, fistula with palpable
   thrill on R arm
   Labs / Radiology
   285 K/uL
   8.3 g/dL
   152 mg/dL
   5.2 mg/dL
   13 mEq/L
   5.2 mEq/L
   113 mg/dL
   109 mEq/L
   138 mEq/L
   28.0 %
   5.8 K/uL
        [image002.jpg]
   CXR read pending
   Micro
   [**3-17**] and 2/5 blood NGTD
   [**3-17**] urine >100,000 GNRs speciation pending
   [**3-18**] stool C diff negative
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
                             [**2138-3-19**]  04:41 PM
                             [**2138-3-19**]  08:27 PM
                             [**2138-3-20**]  04:52 AM
   WBC
   14.8
   5.0
   6.1
   5.8
   Hct
   31.8
   28.8
   28.7
   28.0
   Plt
   [**Telephone/Fax (3) 745**]85
   Cr
   4.5
   4.3
   4.5
   4.5
   4.8
   4.9
   5.2
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   163
   152
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:92.7
   %, Band:Units: %
   Range: 0-5 %, Lymph:5.2 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   1.  Acute on Chronic Renal Failure:  Precipitating factor likey
   Pseudomonal UTI, covered on Zosyn since admission.  Rising Cr of 5.2
   (from 4.5), K+ stable at 5.2, oliguric, 10cc of urine since last night,
   mental status markedly improved from admission.
   -Continue Zosyn and Vacomycin for broad coverage for a total of 7 days
   -Dialysis today
   -Continue to check [**Hospital1 **] lytes
   2.  Fever/Hypotension:  Likely secondary to pseudomonal UTI, have not
   been able to localize any other infection, blood cultures negative to
   date.  BP's have been in low 100's which represents an improvement from
   admission.  Has not required pressors or fluid bolus for >48 hours.
   -Close monitoring of BP's as being dialyzed today
   -Would tolerate SBP to the 80's, if drops below, would bolus cautiously
   with NS with bicarb and avoid LR due to K+ content
   -Would also consider pressor use if BP's do not respond to bolus as
   patient has significant pulmonary edema
   -Nutritional status may also be contributing to low blood pressures,
   nutrition consult recommended tube feeds, will hold off until discuss
   plan with wife
   -D/c stress dose steriods as BP's adequate
   -Continue Zosyn, Vancomycin and Flagyl
   -Dose Vancomycin by level, holding today's dose for level of 30.1
   3.  Pulmonary Edema:  Worsened on CXR from yesterday, no subjective
   dyspnea.  No crackles heard on anterior exam as fluid is dependant.
   Cause is multifactorial including pseudomonal UTI likely resulting in
   sepsis, poor nutritional status, low EF of 40% and aortic stenosis.
   -patient is overall volume overloaded, but likely intravascularly dry
   because of low hydrostatic and low oncotic pressure
   -appreciate cardiology consult who recommends improving nutritional
   status and sepsis as heart failure component likely secondary to these
   primary problems
   -HD today
   -Repeat CXR in am
   4. ESRD:  S/p B renal transplant, on tacrolimus and steriods
   -tacrolimus level 5.1 today, will dose 1mg [**Hospital1 **] per renal and monitor
   levels, hold for level >6
   -will change steriods to baseline dose of 10mg qday
   5.  Pseudomonal UTI:  On Zosyn x7d course, mental status improved
   6.  Prostate Cancer:  On Lupron
   ICU Care
   Nutrition:  renal diet
   Glycemic Control:
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:  n/a
   Communication: wife HCP
   [**Name (NI) 66**] status: DNR / DNI
   Disposition:Transfer to rehab / long term care facility
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] MS4
   Intern Addendum
   Agree with above note. BPs somewhat improved today but essentially
   anuric. CXR shows pulmonary edema
 suspect that his AS is
   contributing. Plan for HD today, starting tacrolimus per renal
   recommendations. Unclear if he indeed has a UTI versus bacteruria but
   in this immunosuppressed patient without other source of fevers that
   brought him in will treat.
   [**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**] MD PGY1 [**Numeric Identifier 704**]

2138-03-20 10:09:00 Physician Attending Progress Note
Chief Complaint: Renal failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2138-3-19**] 02:20 PM
   r/o c. diff
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2138-3-18**] 09:57 AM
   Piperacillin - [**2138-3-19**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-20**] 02:00 AM
   Metronidazole - [**2138-3-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Genitourinary: Dialysis, Dialysis initiated
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: [**2-12**] Minimal
   Pain location: better controlled
   Flowsheet Data as of  [**2138-3-20**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 102 (100 - 107) bpm
   BP: 99/64(73){76/37(47) - 116/71(95)} mmHg
   RR: 19 (18 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    510 mL
                                                                    259 mL
   PO:
             TF:
   IVF:
                                                                    510 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                     86 mL
                                                                     20 mL
   Urine:
                                                                     86 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                    239 mL
   Respiratory support
   SpO2: 100%
   ABG: ///13/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : basilar)
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm - fragile, skin tears
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   285 K/uL
   152 mg/dL
   5.2 mg/dL
   13 mEq/L
   5.2 mEq/L
   113 mg/dL
   109 mEq/L
   138 mEq/L
   28.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
                             [**2138-3-19**]  04:41 PM
                             [**2138-3-19**]  08:27 PM
                             [**2138-3-20**]  04:52 AM
   WBC
   14.8
   5.0
   6.1
   5.8
   Hct
   31.8
   28.8
   28.7
   28.0
   Plt
   [**Telephone/Fax (3) 745**]85
   Cr
   4.5
   4.3
   4.5
   4.5
   4.8
   4.9
   5.2
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   163
   152
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:92.7
   %, Band:Units: %
   Range: 0-5 %, Lymph:5.2 %, Mono:2.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   No clear source
 DIARRHEA
   [**3-15**] c. difficile infection
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD) - remains
   almost anuric. Initiating dialysis today. Should help us assess his
   volume status as if he is preload dependent. He is masssively volume
   positive from admission and his pulmonary edema is worsening
   s/p cadaveric renal transplant on immunosuppression
 ELECTROLYTE & FLUID DISORDER, OTHER
   hypocalcemia
   PULMONARY EDEMA - etiology not clear but seems likely to be a
   combination of hydrostatic and oncotic. Echo was unimpressive but I
   wonder if his cardiac fxn is worse than estimated. Will see how he
   tolerates dialysis
   ICU Care
   Nutrition:
   Comments: Not eating. Will discuss feeding tube with his wife
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2138-03-21 11:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2138-3-20**] 04:00 AM
   Piperacillin - [**2138-3-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-21**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema
   Respiratory: Dyspnea, Tachypnea
   Pain: [**2-12**] Minimal
   Pain location: bilat from mets
   Flowsheet Data as of  [**2138-3-21**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 111 (103 - 115) bpm
   BP: 99/66(73){91/45(58) - 105/67(76)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    700 mL
                                                                    310 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    500 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                     43 mL
                                                                    133 mL
   Urine:
                                                                     43 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Widely split ), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilat)
   Abdominal: Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   233 K/uL
   173 mg/dL
   4.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   87 mg/dL
   111 mEq/L
   143 mEq/L
   27.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
                             [**2138-3-19**]  04:41 PM
                             [**2138-3-19**]  08:27 PM
                             [**2138-3-20**]  04:52 AM
                             [**2138-3-20**]  04:38 PM
                             [**2138-3-21**]  04:37 AM
   WBC
   14.8
   5.0
   6.1
   5.8
   5.1
   Hct
   31.8
   28.8
   28.7
   28.0
   27.8
   Plt
   [**Telephone/Fax (3) 745**]85
   233
   Cr
   4.5
   4.3
   4.5
   4.5
   4.8
   4.9
   5.2
   4.2
   4.4
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   163
   152
   208
   173
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:94.1
   %, Band:Units: %
   Range: 0-5 %, Lymph:4.2 %, Mono:1.6 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION - no clear evidence of infection.
   Abx started on adm and will complete 7 day course
   No clear source
 DIARRHEA
   [**3-15**] c. difficile infection
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   s/p cadaveric renal transplant on immunosuppression
 PULMONARY EDEMA - still unclear why his pulmonary edema is worse. I
   suspect his valvular disease is worse and ventricular fxn is worse than
   estimated by echo. He tolerated dialysis yesterday but with some
   hypotension. Unclear if he can be diuresesd any with his unstable
   hemodynamics
 ELECTROLYTE & FLUID DISORDER, OTHER
   hypocalcemia
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   then home but patient is very ambivalent about returning to dialysis
   and is uncomfortable being sent home. With worsening cardiac fxn his
   prognosis is very poor
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40 minutes

2138-03-21 15:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Continued to be anuric.  Tolerated HD well.  Decision today by pt and
   wife to convert to [**Name (NI) 617**].
   History obtained from Patient
   Allergies:
   History obtained from PatientHeparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Piperacillin - [**2138-3-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-21**] 09:00 AM
   Metronidazole - [**2138-3-21**] 10:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-21**] 02:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 113 (103 - 115) bpm
   BP: 106/58(71){91/45(58) - 106/67(76)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    700 mL
                                                                    569 mL
   PO:
                                                                    200 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    500 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                     43 mL
                                                                    163 mL
   Urine:
                                                                     43 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    657 mL
                                                                    406 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   233 K/uL
   8.5 g/dL
   173 mg/dL
   4.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   87 mg/dL
   111 mEq/L
   143 mEq/L
   27.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
                             [**2138-3-19**]  04:41 PM
                             [**2138-3-19**]  08:27 PM
                             [**2138-3-20**]  04:52 AM
                             [**2138-3-20**]  04:38 PM
                             [**2138-3-21**]  04:37 AM
   WBC
   14.8
   5.0
   6.1
   5.8
   5.1
   Hct
   31.8
   28.8
   28.7
   28.0
   27.8
   Plt
   [**Telephone/Fax (3) 745**]85
   233
   Cr
   4.5
   4.3
   4.5
   4.5
   4.8
   4.9
   5.2
   4.2
   4.4
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   163
   152
   208
   173
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:94.1
   %, Band:Units: %
   Range: 0-5 %, Lymph:4.2 %, Mono:1.6 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   1. [**Telephone/Fax (3) 617**]: Pt and wife desired to transition to [**Name (NI) 617**] today; palliative care
   following.  Review palliative care recs.
   2.  Renal failure:  Anuric, s/p HD yesterday, scheduled for HD today
   and tomorrow per renal; however, pt and wife now want to stop HD. Cr
   down to 4.4 from 5.2 and K+ 4.4 from 5.2.
   3.  Pulmonary Edema:  Worsened on CXR from yesterday, no subjective
   dyspnea.  No crackles heard on anterior exam as fluid is dependant.
   Cause is multifactorial including pseudomonal UTI likely resulting in
   sepsis, poor nutritional status, low EF of 40% and aortic stenosis.  Pt
   now [**Name (NI) 617**].
   4. ESRD:  S/p B renal transplant, on tacrolimus and steriods.  Now [**Name (NI) 617**],
   d/c tacrolimus and steroids.
   5.  Pseudomonal UTI:  Now [**Name (NI) 617**].
   6.  Fever/Hypotension:  Resolved.  Pt now [**Name (NI) 617**], d/c all antibiotics.
   7.  Prostate Cancer:  [**Name (NI) 617**].  D/c Lupron.
   ICU Care:  PT NOW [**Name (NI) 617**].
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI ; [**Year (4 digits) 617**]
   Disposition:

2138-03-22 10:02:00 Physician Resident Progress Note
Chief Complaint: Fever, hypotension, acute on chronic renal failure
   24 Hour Events:
   Patient made CMO after discussing goals of care with wife.
   History obtained from Family / Friend
   [**Name (NI) 53**] unable to provide history: Unresponsive
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Last dose of Antibiotics:
   Piperacillin - [**2138-3-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-3-21**] 09:00 AM
   Metronidazole - [**2138-3-21**] 10:12 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2138-3-22**] 03:30 AM
   Lorazepam (Ativan) - [**2138-3-22**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-3-22**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 113 (108 - 116) bpm
   BP: 87/63(69){71/37(45) - 106/65(73)} mmHg
   RR: 11 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    660 mL
                                                                    100 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                    440 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    181 mL
                                                                     70 mL
   Urine:
                                                                     18 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    479 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Deferred as patient is CMO
   Cachectic, weak gentleman lying in bed with family present.
   Labs / Radiology
   233 K/uL
   8.5 g/dL
   173 mg/dL
   4.4 mg/dL
   19 mEq/L
   4.3 mEq/L
   87 mg/dL
   111 mEq/L
   143 mEq/L
   27.8 %
   5.1 K/uL
        [image002.jpg]
                             [**2138-3-17**]  07:46 PM
                             [**2138-3-18**]  05:42 AM
                             [**2138-3-18**]  01:56 PM
                             [**2138-3-19**]  05:59 AM
                             [**2138-3-19**]  04:41 PM
                             [**2138-3-19**]  08:27 PM
                             [**2138-3-20**]  04:52 AM
                             [**2138-3-20**]  04:38 PM
                             [**2138-3-21**]  04:37 AM
   WBC
   14.8
   5.0
   6.1
   5.8
   5.1
   Hct
   31.8
   28.8
   28.7
   28.0
   27.8
   Plt
   [**Telephone/Fax (3) 745**]85
   233
   Cr
   4.5
   4.3
   4.5
   4.5
   4.8
   4.9
   5.2
   4.2
   4.4
   TropT
   0.42
   0.35
   0.33
   Glucose
   [**Telephone/Fax (3) 696**]64
   163
   152
   208
   173
   Other labs: PT / PTT / INR:13.9/32.0/1.2, CK / CKMB /
   Troponin-T:10/4/0.33, Amylase / Lipase:45/34, Differential-Neuts:94.1
   %, Band:Units: %
   Range: 0-5 %, Lymph:4.2 %, Mono:1.6 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:399 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.1
   g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   67 yo M with ESRD, acute on chronic renal failure now on comfort
   measures only with plan to dischrage home today on hospice.
   # Pain control:
   -          ativan and morphine SL prescriptions
   Will remove central line and continue rectal tube given gluteal skin
   breakdown.
   Transport with DNR/DNI and CMO paperwork.
   ICU Care
   Nutrition:  Soft
   Glycemic Control:  none as CMO
   Lines:
   Presep Catheter - [**2138-3-17**] 03:30 PM
   Code status: Comfort measures only
   Disposition: home on hospice today
   Note written by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], MS IV and edited by [**First Name8 (NamePattern2) 361**]
   [**Last Name (NamePattern1) 512**], MD.